US07030139B2
24A: 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbaldehyde.
To a solution of 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbonitrile (0.049 g, 0.149 mmol) in 50% aqueous formic acid (1 mL) was added a catalytic amount of Raney nickel (50% suspension in water) and the resulting mixture was heated at 90° C. for 6 hours. The mixture was filtered through a short pad of diatomaceous earth and washed with EtOAc. The solvent was evaporated in vacuo and the residue was taken up into EtOAc (5 mL). The organic phase was washed with 1 N NaOH (2×2 mL) and brine (2 mL), dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel column chromatography (40% EtOAc/hexanes) to provide the title compound (0.041 g, 82%) as a white solid. 1H NMR (acetone-d6): δ 10.16 (s, 1H), 8.29 (s, 1H), 7.90 (d, J=8.4 Hz, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.34 (d, J=8.4 Hz, 2H), 6.94 (d, J=8.4 Hz, 2H), 4.44 (s, 2H), 4.24 (d, J=6.4 Hz, 2H) 4.07 (q, J=6.8 Hz, 2H), 1.40 (t, J=7.0 Hz, 3H), 1.27–1.14 (m, 1H), 0.58–0.49 (m, 2H), 0.48–0.38 (m, 2H). MS (ESI) (M+H)+=335.

reactant | 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbonitrile | 0.149 mmol, 0.049 g | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C#N)CC2=CC=C(C=C2)OCC | C21H21N3O
reactant | formic acid | 1 mL | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | 1-(cyclopropylmethyl)-2-(4-ethoxybenzyl)-1H-benzimidazole-5-carbaldehyde | 0.041 g, 82% | C1(CC1)CN1C(=NC2=C1C=CC(=C2)C=O)CC2=CC=C(C=C2)OCC | C21H22N2O2
